US04762942
1-Ethyl-2-[3-[(4-methoxyphenyl)diphenylmethoxy]-2-(phenylmethoxy)propoxy]-4-tetradecylbenzene
To a suspension of 1.87 g of prewashed 50% sodium hydride in 50 ml of dimethylformamide was added a solution of 17.26 g of 1-(2-ethyl-5-tetradecylphenoxy)-3-[(4-methoxyphenyl)diphenylmethoxy]-2-propanol in 50 ml of dimethylformamide. This mixture was stirred for 15 minutes, then 5.79 g of benzyl bromide was added. This mixture was stirred 3 hours, quenched slowly with water and extracted several times with ether. The ether extracts were combined, washed with water, dried and the solvent removed, giving 19.1 g of the desired compound.

reactant | sodium hydride | [H-].[Na+]
reactant | 1-(2-ethyl-5-tetradecylphenoxy)-3-[(4-methoxyphenyl)diphenylmethoxy]-2-propanol | 17.26 g | C(C)C1=C(OCC(COC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=C(C=C2)OC)O)C=C(C=C1)CCCCCCCCCCCCCC | C45H60O4
reactant | benzyl bromide | 5.79 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-Ethyl-2-[3-[(4-methoxyphenyl)diphenylmethoxy]-2-(phenylmethoxy)propoxy]-4-tetradecylbenzene | 19.1 g | C(C)C1=C(C=C(C=C1)CCCCCCCCCCCCCC)OCC(COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=C(C=C1)OC)OCC1=CC=CC=C1 | C52H66O4
